US07582645B2
Preparation of 4-{4-[(2-amino-6-phenylpyrimidin-4-yl)amino]phenoxy}-N,N-dimethylpyridine-2-carboxamide
This material is prepared by a method analogous to that described for Example 21, starting from 4-{4-[(2-amino-6-phenylpyrimidin-4-yl)amino]phenoxy}pyridine-2-carboxylic acid and dimethylamine.

reactant | 4-{4-[(2-amino-6-phenylpyrimidin-4-yl)amino]phenoxy}pyridine-2-carboxylic acid | NC1=NC(=CC(=N1)NC1=CC=C(OC2=CC(=NC=C2)C(=O)O)C=C1)C1=CC=CC=C1 | C22H17N5O3
reactant | dimethylamine | CNC | C2H7N
product | 4-{4-[(2-amino-6-phenylpyrimidin-4-yl)amino]phenoxy}-N,N-dimethylpyridine-2-carboxamide | NC1=NC(=CC(=N1)NC1=CC=C(OC2=CC(=NC=C2)C(=O)N(C)C)C=C1)C1=CC=CC=C1 | C24H22N6O2
